US08557805B2
2-{2-[5-({6-[(2-Methoxyethoxy)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}ethanol
To a solution of ethyl{2-[5-({6-[(2-methoxyethoxy)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate (190 mg) in tetrahydrofuran (5 mL) and methanol (5 mL) was added at room temperature lithium tetrahydroborate (22 mg) 3 times at 30 min intervals, and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to basic silica gel column chromatography (ethyl acetate:hexane=0:100 to 100:0, volume ratio), and further to silica gel column chromatography (methanol:ethyl acetate:hexane=0:0:100 to 10:90:0, volume ratio). The obtained crude product was purified by preparative HPLC to give the title compound (52 mg, yield 30%) as a pale-yellow oil.

reactant | ethyl{2-[5-({6-[(2-methoxyethoxy)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate | 190 mg | C(C)OC(CC1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OC=1C=NC(=CC1)COCCOC)OC1CCOCC1)=O | C29H35N3O7S
reactant | lithium tetrahydroborate | 22 mg | [BH4-].[Li+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-{2-[5-({6-[(2-Methoxyethoxy)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}ethanol | 52 mg, yield 30% | COCCOCC1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CCO | C27H33N3O6S
